US04889553
(a) 5-Amino-3-benzylthio-1,2,4-triazole
3-Amino-5-mercapto-1,2,4-triazole (40.36 g) was treated at room temperature with sodium hydroxide (13.9 g) in ethanol (450 ml), and benzyl chloride (44.3 g) was added. The mixture was stirred overnight, and was then filtered. The ethanol was evaporated off, and the residue was recrystallised from ethyl acetate to give 64.97 g of the desired product, mp 104° C.

reactant | 3-Amino-5-mercapto-1,2,4-triazole | 40.36 g | NC1=NNC(=N1)S | C2H4N4S
reactant | sodium hydroxide | 13.9 g | [OH-].[Na+]
reactant | benzyl chloride | 44.3 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | ethanol | 450 ml | C(C)O | C2H6O
product | 5-Amino-3-benzylthio-1,2,4-triazole | 64.97 g | NC1=NC(=NN1)SCC1=CC=CC=C1 | C9H10N4S
